US07786108B2
Step 2. Preparation of (S)-(3-fluoro-5-trifluoromethyl-benzyl)-(7-methyl-1-pyridin-4-ylmethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine
Add pyridine-4-carboxaldehyde (0.065 mL, 0.69 mmol) to a solution of (S)-(3-fluoro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepine-5-yl)-amine (0.12 g, 0.23 mmol) in 1,2-dichloroethane (10 mL) and acetic acid (0.02 mL) at room temperature under nitrogen and stir for 5 min. Add sodium triacetoxy borohydride (0.29 g, 1.38 mmol) and stir for 12 h. Dilute the mixture with methylene chloride (30 mL) and wash with saturated aqueous sodium bicarbonate solution (2×10 mL). Extract the combined aqueous washes with methylene chloride (20 mL) and wash the combined organic extracts with brine (20 mL) and dry over anhydrous sodium sulfate. Remove the solvents under reduced pressure and purify by silica gel column (gradient eluent, 0-5% MeOH in ethyl acetate) to give the title compound (0.12 g, 87%). MS (ES+): 594 (M+H).

reactant | pyridine-4-carboxaldehyde | 0.69 mmol, 0.065 mL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | (S)-(3-fluoro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepine-5-yl)-amine | 0.23 mmol, 0.12 g | FC=1C=C(CN([C@@H]2C3=C(NCCC2)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F | C22H21F7N6
reactant | sodium triacetoxy borohydride | 1.38 mmol, 0.29 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.02 mL | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | (S)-(3-fluoro-5-trifluoromethyl-benzyl)-(7-methyl-1-pyridin-4-ylmethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.12 g, 87% | FC=1C=C(CN(C=2N=NN(N2)C)[C@@H]2C3=C(N(CCC2)CC2=CC=NC=C2)C=C(C(=C3)C)C(F)(F)F)C=C(C1)C(F)(F)F | C28H26F7N7
